US04069256
Following a procedure similar to that described in Example 3, 37.8 g. (0.1 mole) of 2-cyclohexylmethyl-1-[2-(3-bromophenyl)propyl]piperidine was reacted with 0.18 mole of n-butyl lithium in diethyl ether and the resulting lithio derivative reacted directly with 27 g. (0.23 mole) of acetophenone to give 11.8 g. of 2-cyclohexylmethyl-1-{2-[3-(α-hydroxy-α-methylbenzyl)phenyl]propyl}piperidine as a yellow oil.

reactant | 2-cyclohexylmethyl-1-[2-(3-bromophenyl)propyl]piperidine | 0.1 mole | C1(CCCCC1)CC1N(CCCC1)CC(C)C1=CC(=CC=C1)Br | C21H32BrN
reactant | n-butyl lithium | 0.18 mole | C(CCC)[Li]
reactant | diethyl ether | C(C)OCC | C4H10O
product | acetophenone | 0.23 mole | C(C)(=O)C1=CC=CC=C1 | C8H8O
